US05932601
In substantially the same manner as in Reference Example 16, 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolyl methoxy)benzaldehyde was allowed to react with trimethyl phosphonoacetate to yield methyl 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate, which was recrystallized from ethyl acetate-ether to give colorless needles, m.p.135-136° C.

reactant | 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolyl methoxy)benzaldehyde | COC1=C(C=C(C=O)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate | COC1=C(C=C(C=CC(=O)OC)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C22H21NO5
